US05668291
[2-(2-Benzoyl-phenyldisulfanyl)-phenyl]-phenylmethanone
To a solution of 2-mercaptobenzophenone (2.3 g, 7.4 mmol) in diethyl ether (10 mL) was added dropwise diethyl azodicarboxylate (0.65 g, 3.7 mmol). The solution was stirred for 5 minutes at room temperature, then diluted with benzene (40 mL) and refluxed for 16 hours. The solution was cooled and concentrated in vacuo leaving a yellow liquid. The crude product was purified using silica gel chromatography (75% hexane/25% ethyl acetate) to give the title compound as a yellow foam (0.8 g, 50%);

reactant | 2-mercaptobenzophenone | 7.4 mmol, 2.3 g | SC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H10OS
reactant | diethyl azodicarboxylate | 3.7 mmol, 0.65 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
product | [2-(2-Benzoyl-phenyldisulfanyl)-phenyl]-phenylmethanone | 0.8 g, 50% | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)SSC1=C(C=CC=C1)C(=O)C1=CC=CC=C1 | C26H18O2S2
